US04391821
A solution of 10.0 g 7-(2-hydroxy-3-chloro-1-propyloxy)-4H-1-benzopyrane-4-one with 100 cm3 ethanol was boiled with 20 cm3 1,1-dimethylethylamine for 2.5 hours. The solution was evaporated under reduced pressure, the residue was dissolved in 200 ml ethanol, to the obtained solution 40 ml 10% aqueous hydrochloric acid was added and the mixture was boiled for 10 minutes. The solvent was removed under reduced pressure and the residue was crystallized from aceton; 1-(4H-1-benzopyrane-4-one-7-yloxy)-3-(1,1-dimethylethylamino)-2-propanol hydrochloride salt (m.p. 176°-178° C.) was obtained.

reactant | 7-(2-hydroxy-3-chloro-1-propyloxy)-4H-1-benzopyrane-4-one | 10.0 g | OC(COC1=CC2=C(C(C=CO2)=O)C=C1)CCl | C12H11ClO4
reactant | 1,1-dimethylethylamine | 20 cm3 | CC(C)(C)N | C4H11N
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | 1-(4H-1-benzopyrane-4-one-7-yloxy)-3-(1,1-dimethylethylamino)-2-propanol hydrochloride salt | Cl.O1C=CC(C2=C1C=C(C=C2)OCC(CNC(C)(C)C)O)=O | InChI=1S/C16H21NO4.ClH/c1-16(2,3)17-9-11(18)10-21-12-4-5-13-14(19)6-7-20-15(13)8-12;/h4-8,11,17-18H,9-10H2,1-3H3;1H
